US07335658B2
6-[4-(2-FLUORO-6-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid (3-methylbutyl)amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(6-fluoro-2-trifluoromethylphenyl)methanone, the title compound was obtained as a white powder (16.8% yield). 1H NMR (400 MHz, CDCl3) δ 8.06, 7.85, 7.57-7.55, 7.39-7.36, 7.01, 4.04-3.94, 3.86-3.79, 3.49, 3.44-3.36, 1.73-1.68, 1.52, 0.94.

reactant | 6-chloropyridazine-3-carboxylic acid (3-methylbutyl)amide | CC(CCNC(=O)C=1N=NC(=CC1)Cl)C | C10H14ClN3O
reactant | piperazin-1-yl-(6-fluoro-2-trifluoromethylphenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC=C1F)C(F)(F)F | C12H12F4N2O
product | 6-[4-(2-FLUORO-6-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1C(F)(F)F)F)=O)C | C22H25F4N5O2
